US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-6-chloro-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (500 mg) and 10% Pd—C (140 mg) in EtOAc (10 mL) was hydrogenated under balloon pressure at room temperature for 3 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give 6-chloro-1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (70 mg) as a white solid.

reactant | 3-[4-(benzyloxy)phenyl]-6-chloro-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 500 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)Cl)CC)=O | C21H18ClN3O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 140 mg | [Pd] | Pd
product | 6-chloro-1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 70 mg | ClC=1C=C2C(=NC1)N(C(N2CC)=O)C2=CC=C(C=C2)O | C14H12ClN3O2
